### PR TITLE
[Merged by Bors] - feat(Data/Nat): add prime divisibility for ascFactorial and choose

### PR DESCRIPTION
**Pull request by akiezun**
Adds two prime-divisibility lemmas for natural-number factorial/binomial APIs.

  The first characterizes when a prime divides an ascending factorial:
  `Nat.Prime.dvd_ascFactorial_iff`.

  The second applies this to binomial coefficients:
  `Nat.Prime.dvd_choose_add_sub_one_iff`, using
  `Nat.ascFactorial_eq_factorial_mul_choose'` and cancellation of the `n!` factor
  when `n < p`.

AI usage: I used codex to apply the reviewer’s suggestions, validation, and Git operations.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Prime/Factorial.lean [hunk 1]
```diff
@@ -28,6 +28,21 @@ theorem Prime.dvd_factorial : ∀ {n p : ℕ} (_ : Prime p), p ∣ n ! ↔ p ≤
...
+  | succ n ih =>
+    rw [Nat.ascFactorial_succ, hp.dvd_mul, ih]
+    constructor
+    · rintro (h | ⟨i, hi, h⟩)
+      · exact ⟨n, lt_succ_self n, h⟩
+      · exact ⟨i, lt_succ_of_lt hi, h⟩
+    · rintro ⟨i, hi, h⟩
+      rcases lt_or_eq_of_le (Nat.le_of_lt_succ hi) with hi | rfl
+      · exact Or.inr ⟨i, hi, h⟩
+      · exact Or.inl h
```
Comment (wwylele) [inline Mathlib/Data/Nat/Prime/Factorial.lean]:
```suggestion
lemma Prime.dvd_ascFactorial_iff {p k n : ℕ} (hp : p.Prime) :
    p ∣ k.ascFactorial n ↔ ∃ i < n, p ∣ k + i := by
  simp [Nat.ascFactorial_eq_prod_range, hp.prime.dvd_finsetProd_iff]
```
Not sure if this file has enough imports for this. If not, this can be moved to anywhere that imports `Mathlib.Algebra.BigOperators.Associated` and `Mathlib.Data.Nat.Factorial.BigOperators`

Comment (SnirBroshi) [reply Mathlib/Data/Nat/Prime/Factorial.lean]: It doesn't and AFAICT there's no file that imports these which is also a sensible place for such a theorem.
New file?

Comment (akiezun) [reply Mathlib/Data/Nat/Prime/Factorial.lean]: > It doesn't and AFAICT there's no file that imports these which is also a sensible place for such a theorem. New file?

Thanks. Suggestions for file name?

Comment (SnirBroshi) [reply Mathlib/Data/Nat/Prime/Factorial.lean]: Maybe `Data/Nat/Factorial/Prime.lean`, not sure

Comment (wwylele) [reply Mathlib/Data/Nat/Prime/Factorial.lean]: It is going to be a bit confusing if we have both `Mathlib/Data/Nat/Prime/Factorial.lean` and `Data/Nat/Factorial/Prime.lean`... what about adding more imports here and eat the cost of large imports? (assuming it is not circular)

Comment (akiezun) [reply Mathlib/Data/Nat/Prime/Factorial.lean]: How about moving `Nat.Prime.dvd_ascFactorial_iff` to the existing file
  `Mathlib/Data/Nat/Factorial/BigOperators.lean` instead of adding the heavier
  big-operator imports to `Mathlib/Data/Nat/Prime/Factorial.lean` or making a new file with one lemma?

  That file already contains `Nat.ascFactorial_eq_prod_range`, and the suggested proof is exactly
  the big-operator proof.
  
  Then Nat.Prime.dvd_choose_add_sub_one_iff can remain in
  Mathlib/Data/Nat/Choose/Dvd.lean and import Mathlib.Data.Nat.Factorial.BigOperators.

  Does that placement sound reasonable? I confirmed it compiles.

Comment (akiezun) [reply Mathlib/Data/Nat/Prime/Factorial.lean]: I moved `Nat.Prime.dvd_choose_add_sub_one_iff` out of `Data.Nat.Choose.Dvd` into a new `Data.Nat.Choose.Consecutive` file because after `dvd_ascFactorial_iff` moved to `Data.Nat.Factorial.BigOperators`, keeping the choose lemma in `Choose.Dvd` made `Choose.Dvd` import `Factorial.BigOperators`, triggering a large transitive import increase.

Does this new file split look reasonable, or would you prefer accepting the import increase and keeping the lemma in `Choose.Dvd`?

File: Mathlib/Data/Nat/Choose/Consecutive.lean [hunk 2]
```diff
@@ -0,0 +1,37 @@
...
+
+namespace Prime
+
+variable {p k n : ℕ}
+
+lemma dvd_choose_add_sub_one_iff (hp : Prime p) (hpn : n < p) :
+    p ∣ choose (k + n - 1) n ↔ ∃ i < n, p ∣ k + i := by
+  rw [← hp.dvd_ascFactorial_iff, Nat.ascFactorial_eq_factorial_mul_choose']
+  exact ⟨fun h => dvd_mul_of_dvd_right h (n !),
+    fun h => (hp.coprime_factorial_of_lt hpn).dvd_of_dvd_mul_left h⟩
```
Comment (Vierkantor) [inline Mathlib/Data/Nat/Choose/Consecutive.lean:33]: I think we should also add a variant without the complicated `(k + n - 1)` expression appearing in the left hand side. After a bit of experimentation I got:

```lean
lemma dvd_choose_iff (hp : Prime p) (hpn : n < p) (hnk : n ≤ k) :
    p ∣ choose k n ↔ ∃ i < n, p ∣ k - i := by
  by_cases hn0 : n = 0
  · grind [dvd_one, Nat.not_prime_one]
  rw [show k = (k - n + 1) + n - 1 by grind, hp.dvd_choose_add_sub_one_iff hpn]
  constructor <;>
    rintro ⟨i, hlt, hdvd⟩ <;>
    refine ⟨n - i - 1, by grind, ?_⟩ <;>
    convert hdvd using 1 <;>
    grind
```

(Using `grind` to deal with natural number subtraction is very useful!)

**Review by Vierkantor — COMMENTED** [review]
Sorry for the long wait! If you agree with my suggested addition, I'm happy to merge this PR.

**Comment by akiezun** [comment]
Addresses reviewer comments. Ready to rereview

**Comment by wwylele** [comment]
Please type "-awaiting-author" to remove the tag when it is ready for review. You can find more related instructions in https://leanprover-community.github.io/contribute/how-to-contribute.html

**Comment by akiezun** [comment]
-awaiting-author

**Comment by Vierkantor** [comment]
Thanks!

bors r+
